US05128362
5-Hydroxy-6-iodo-1-indanone
5-Hydroxy-1 indanone (1.48 g),-N-iodosuccinimide (2.25 g) and CH3CN (20 ml) were stirred at room temperature overnight. The solution was evaporated to dryness, slurried with EtOAc, then filtered. The filtrate was evaporated to dryness and the solid recrystallized from CH3CN affording the desired compound (0.92 g), m.p. 114°-15° C.

reactant | 5-Hydroxy-1 indanone | 1.48 g | OC=1C=C2CCC(C2=CC1)=O | C9H8O2
reactant | N-iodosuccinimide | 2.25 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | CH3CN | 20 ml | CC#N | C2H3N
product | 5-Hydroxy-6-iodo-1-indanone | OC=1C=C2CCC(C2=CC1I)=O | C9H7IO2
